US06140351
N-(5-Chloropyridin-2-yl)-2-[((4-(2-amino-2-(hydroxyimino)ethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (3.06 g, 5.8 mmol) was dissolved in trichloroacetic acid (3.8 g, 23 mmol) and the mixture heated to 85° C. Trichloroacetyl chloride (1.3 mL, 11.6 mmol) was added, and the temperature was increased to 94° C. After one hour the reaction mixture was allowed to cool to room temperature, diluted with water (150 mL) and a small amount of ethyl acetate, and adjusted to basic pH with 1 N NaOH. The aqueous layer was extracted with ethyl acetate (300 mL). The organic phase was washed with 1 M sodium bicarbonate (150 mL), dried over magnesium sulfate, concentrated in vacuo, and dried under vacuum. The crude product was purified by flash chromatography on silica gel eluting with 25% ethyl acetate/hexanes to afford N-(5-chloropyridin-2-yl)-2-[((4-((5-trichloromethyl-1,2,4-oxadiazol-3-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide.

reactant | N-(5-Chloropyridin-2-yl)-2-[((4-(2-amino-2-(hydroxyimino)ethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 5.8 mmol, 3.06 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CC(=NO)N)=O | C20H16Cl3N5O4S
reactant | trichloroacetic acid | 23 mmol, 3.8 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | Trichloroacetyl chloride | 11.6 mmol, 1.3 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | water | 150 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-chloropyridin-2-yl)-2-[((4-((5-trichloromethyl-1,2,4-oxadiazol-3-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CC1=NOC(=N1)C(Cl)(Cl)Cl)=O | C22H13Cl6N5O4S
